US04745222
6,7-Dihydro-2-methylbenzo(b)furan-4(5H)-one
To a solution of conc. H2SO4 (300 ml) cooled in an ice-bath was added a solution of 3-hydroxy-2(2-oxopropyl)-2-cyclohexene-1-one (190 g in 300 ml CH2Cl2). Upon completion of addition, the mixture was stirred at ambient temperature for about 1 hour. The mixture was then slowly poured into 3 l ice water, and then about 1 l of CH2Cl2 was added. The layers are separated and the aqueous layer extracted thrice with CH2Cl2 and the combined CH2Cl2 layers again extracted thrice with water. The CH2Cl2 layer washed thrice with dilute aqueous NaHCO3, then once with water and dried (MgSO4). Concentration in vacuo afford an orange oil.

reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
reactant | 3-hydroxy-2(2-oxopropyl)-2-cyclohexene-1-one | 300 ml, 190 g | OC1=C(C(CCC1)=O)CC(C)=O | C9H12O3
solvent | CH2Cl2 | about 1 l | C(Cl)Cl | CH2Cl2
product | 6,7-Dihydro-2-methylbenzo(b)furan-4(5H)-one | CC1=CC2=C(O1)CCCC2=O | C9H10O2
